US04616023
The thus dried 3-chloro-5H-dibenzo[a,d]cyclohepten-5-ol intermediate was mixed with 10 milliliters of benzene and 10 milliliters of thionyl chloride and the resulting mixture stirred at reflux temperature for 2 hours to obtain 3,5-dichloro-5H-dibenzo[a,d]cycloheptene intermediate in the reaction mixture. The mixture was cooled and evaporated under reduced pressure to recover the chloro intermediate as residue.

reactant | 3-chloro-5H-dibenzo[a,d]cyclohepten-5-ol | ClC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)O)C1 | C15H11ClO
reactant | thionyl chloride | 10 milliliters | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 milliliters | C1=CC=CC=C1 | C6H6
product | 3,5-dichloro-5H-dibenzo[a,d]cycloheptene | ClC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)Cl)C1 | C15H10Cl2
